US07045653B2
Ethyl 5-{[tert-butyl(dimethyl)silyl]oxy}-2-pentenoate
Methyl sulphoxide (1.9 ml, 26.8 mmol) was added to a cooled (−78° C.) solution of oxalyl chloride (2.16 ml, 24.7 mmol) in dichloromethane (100 ml), and after 10 minutes, a solution of 3-(tert-butyl-dimethyl-silanyloxy)-propan-1-ol (3 g, 15.8 mmol) in dichloromethane (25 ml) was added dropwise. Once addition was complete, the solution was stirred for a further 15 minutes. Triethylamine (8 ml, 57.5 mmol) was added, followed by dropwise addition of a solution of (ethoxycarbonylmethylene)triphenylphosphorane (10 g, 29.9 mmol) in dichloromethane (50 ml), and the reaction mixture allowed to warm to room temperature. The mixture was washed with water (4×), dried (MgSO4) and concentrated under reduced pressure. The residue was pre-adsorbed onto silica gel and purified by column chromatography using diethyl ether:pentane (2.5:97.5) as eluant to afford the title compound, 1.3 g; 1H NMR (CDCl3, 400 MHz) δ: 0.02 (s, 6H), 0.87 (s, 9H), 1.26 (t, 3H), 2.40 (m, 2H), 3.74 (t, 2H), 4.18 (q, 2H), 5.84 (d, 1H), 6.95 (m, 1H).

reactant | Methyl sulphoxide | 26.8 mmol, 1.9 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 24.7 mmol, 2.16 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(tert-butyl-dimethyl-silanyloxy)-propan-1-ol | 15.8 mmol, 3 g | C(C)(C)(C)[Si](OCCCO)(C)C | C9H22O2Si
reactant | Triethylamine | 57.5 mmol, 8 ml | C(C)N(CC)CC | C6H15N
reactant | (ethoxycarbonylmethylene)triphenylphosphorane | 29.9 mmol, 10 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl 5-{[tert-butyl(dimethyl)silyl]oxy}-2-pentenoate | [Si](C)(C)(C(C)(C)C)OCCC=CC(=O)OCC | C13H26O3Si
